US05523280
1-(Phenoxycarbonyl-4-chloro-3-(2-nitro-3-chlorophenyl)pyrazole (compound 180)
1.0 ml of phenyl chloroformate is added, in small portions, to a solution, cooled to 0° C., of 1.3 g of 4-chloro-3-(2-nitro-3-chlorophenyl)pyrazole in 20 ml of pyridine. Stirring is continued for 8 hours at room temperature. The reaction mixture is concentrated to dryness under reduced pressure and taken up in 100 ml of an H2O ethyl acetate (1/1) mixture. The organic phase is dried over MgSO4 and concentrated under reduced pressure. The residual solid is purified by recrystallisation from diisopropyl ether.

reactant | phenyl chloroformate | 1.0 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-chloro-3-(2-nitro-3-chlorophenyl)pyrazole | 1.3 g | ClC=1C(=NNC1)C1=C(C(=CC=C1)Cl)[N+](=O)[O-] | C9H5Cl2N3O2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | Phenoxycarbonyl-4-chloro-3-(2-nitro-3-chlorophenyl)pyrazole | O(C1=CC=CC=C1)C(=O)C1=C(C(=NN1)C1=C(C(=CC=C1)Cl)[N+](=O)[O-])Cl | C16H9Cl2N3O4
